US04329367
The mixture of 7.18 g of 1-(3-methyl-4-hydroxyphenyl)-2-(3,3-diphenylpropylamino)-propane, 50 ml of dimethylsulfoxide and 2 ml of 10 N-aqueous sodium hydroxide is stirred for 1 hour at 60°. After cooling to room temperature 3.32 g of 4-chlorobenzyl chloride are added and the mixture stirred overnight at said temperature. It is poured into water, extracted with ethyl acetate, the extract dried and evaporated. The residue is taken up in isopropanol, the solution acidified with isopropanolic hydrogen chloride, the precipitate collected and washed with diethyl ether, to yield the 1-[3-methyl-4-(4-chlorobenzyloxy)-phenyl]-2-(3,3-diphenylpropylamino)-propane hydrochloride melting at 166°-168°.

reactant | 1-(3-methyl-4-hydroxyphenyl)-2-(3,3-diphenylpropylamino)-propane | 7.18 g | CC=1C=C(C=CC1O)CC(C)NCCC(C1=CC=CC=C1)C1=CC=CC=C1 | C25H29NO
reactant | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 4-chlorobenzyl chloride | 3.32 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
solvent | water | O | H2O
product | 1-[3-methyl-4-(4-chlorobenzyloxy)-phenyl]-2-(3,3-diphenylpropylamino)-propane hydrochloride | Cl.CC=1C=C(C=CC1OCC1=CC=C(C=C1)Cl)CC(C)NCCC(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C32H34ClNO.ClH/c1-24-21-27(15-18-32(24)35-23-26-13-16-30(33)17-14-26)22-25(2)34-20-19-31(28-9-5-3-6-10-28)29-11-7-4-8-12-29;/h3-18,21,25,31,34H,19-20,22-23H2,1-2H3;1H
